US06448242B1
Preparation of 1,4-bis[(4-piperidinyl)methyl]-piperazine tetrahydrochloride
A 4N hydrogen chloride in ethyl acetate (4 ml; 16 mmol) was added to a solution in methylene chloride (2 ml) of 1,4-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]-piperazine (195 mg; 0.40 mmol) synthesized by the above process under ice cooling, and the mixture was stirred for 30 minutes. The ice bath was removed, and the mixture was stirred at room temperature for 12 hours. The reaction mixture was concentrated under reduced pressure, and the resultant crude crystals were recrystallized from methylene chloride-methanol-diethyl ether, thereby obtaining 154 mg (yield: 84%) of the title compound as a colorless crystalline powder (melting point: 280° C. or higher).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | ethyl acetate | 16 mmol, 4 ml | C(C)(=O)OCC | C4H8O2
reactant | 1,4-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]-piperazine | 0.40 mmol, 195 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CCN(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C26H48N4O4
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 1,4-bis[(4-piperidinyl)methyl]-piperazine tetrahydrochloride | 154 mg, yield: 84% | Cl.Cl.Cl.Cl.N1CCC(CC1)CN1CCN(CC1)CC1CCNCC1 | InChI=1S/C16H32N4.4ClH/c1-5-17-6-2-15(1)13-19-9-11-20(12-10-19)14-16-3-7-18-8-4-16;;;;/h15-18H,1-14H2;4*1H
